US05556711
L-lactide-glycolide copolymer pellets were prepared by carrying out the same procedures as described in Preparation Example 1 except that 216 g of L-lactide was replaced by 108 g of L-lactide and 108 g of glycolide. The copolymer obtained had an average molecular weight of 100,000.

reactant | L-lactide | 216 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | L-lactide | 108 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | glycolide | 108 g | C1C(=O)OCC(=O)O1 | C4H4O4
product | L-lactide glycolide | C[C@H]1C(=O)O[C@H](C(=O)O1)C.C1C(=O)OCC(=O)O1 | InChI=1S/C6H8O4.C4H4O4/c1-3-5(7)10-4(2)6(8)9-3;5-3-1-7-4(6)2-8-3/h3-4H,1-2H3;1-2H2/t3-,4-;/m0./s1
